US08048887B2
3-(2-(4-Fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)-4-methylbenzoic acid
To a mixture of methyl 3-fluoro-5-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)-4-methylbenzoate (0.3 g, 0.68 mmol, 1 eq) in a 1:1 mixture of MeOH/THF at ambient temperature was added 5 eq. of NaOH and heated to 60° C. for 5 h. The mixture was cooled to ambient temperature and then cooled in an ice-water bath. It was acidified slowly with 1.5 N HCl and then concentrated. The mixture with white precipitates was diluted with water and filtered to get the solid. It is further washed with water and dried in vacuum. Yield: 0.2 g (60%). 1H NMR (400 MHz, DMSO-d6): δ 2.22 (s, 3H), 2.82-2.84 (d, 3H, J=4.6 Hz), 7.39-7.43 (m, 3H,), 7.61 (s, 1H), 7.66-7.70 (d, 1H, J=8.6 Hz), 7.66-7.70 (m, 1H), 7.78-7.80 (d, 1H, J=8.5 Hz), 8.01-8.03 (m, 2H), 8.49-8.51 (d, 1H, J=4.76 Hz), 13.2 (s, 1H). LCMS: (ES−) m/z=420.0 (M−H). CHROMOLITH® SpeedROD C18 (4.6×3.0 mm-5.0 μm). Mphase A: 10% CH3OH-90% H2O-0.1% TFA. Mphase B: 90% CH3OH-10% H2O-0.1% TFA. Flow: 5 ml/Min.

reactant | methyl 3-fluoro-5-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)-4-methylbenzoate | 0.68 mmol, 0.3 g, 1 eq | FC=1C=C(C(=O)OC)C=C(C1C)C=1C=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(NC)=O)C1 | C25H19F2NO4
reactant | NaOH | 5 eq. | [OH-].[Na+]
reactant | HCl | 1.5 N | Cl | ClH
solvent | MeOH THF | CO.C1CCOC1
product | 3-(2-(4-Fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)-4-methylbenzoic acid | FC1=CC=C(C=C1)C=1OC2=C(C1C(NC)=O)C=C(C=C2)C=2C=C(C(=O)O)C=CC2C | C24H18FNO4
